US06034055
14e N-[2-(N-Carbobenzoxy-L-leucyl-L-leucyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-octadecanamide.
from N-(2-L-leucyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-octadecanamide and N-carbobenzoxy-L-leucine. Yield 61%. Rf 0.50 (dichloromethane/methanol/conc. ammonia 15:1:0.1).

reactant | N-(2-L-leucyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-octadecanamide | N[C@@H](CC(C)C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C44H87N3O6
reactant | N-carbobenzoxy-L-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | ammonia | N | H3N
solvent | dichloromethane methanol | ClCCl.CO
product | N-[2-(N-Carbobenzoxy-L-leucyl-L-leucyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-octadecanamide | Yield 61% | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C58H104N4O9
